US07696223B2
a) 4-Bromomethyl-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester
A mixture of 2-(4-chloro-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester (2.50 g, 8.88 mmol), N-bromosuccinimide (2.13 g, 12.0 mmol) and benzoyl peroxide (150 mg, 0.62 mmol) in carbon tetrachloride (50 mL) was refluxed for 24 h before it was cooled to room temperature and partitioned between dichloromethane and water. The organic layer was washed with saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give the title compound as a yellow solid (3.23 g, product is 69% pure by 1H NMR, impurities are starting material and dibromonated compound): 1H NMR (CDCl3, 200 MHz): δ=7.90 (d, 2H), 7.44 (d, 2H), 4.96 (s, 3H), 4.38 (q, J=7.0 Hz, 2H), 1.44 (t, J=7.0 Hz, 3H).

reactant | 2-(4-chloro-phenyl)-4-methyl-thiazole-5-carboxylic acid ethyl ester | 8.88 mmol, 2.50 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C13H12ClNO2S
reactant | N-bromosuccinimide | 12.0 mmol, 2.13 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.62 mmol, 150 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-Bromomethyl-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid ethyl ester | 3.23 g, 69% | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CBr | C13H11BrClNO2S
